US04806141
Aqueous 1% sodium hydroxide solution (6.1 ml) was added to a solution of 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2,4,6-trimethoxyphenyl)cyclohex-2-en-1-one (0.52 g; 1.40 mmole) in acetone (25 ml). The mixture was stirred at room temperature for a period of 5 minutes and then benzoyl chloride (0.21 g) was added dropwise. The mixture was stirred for a further period of 15 minutes and then the solvent was removed by evaporation under reduced pressure. The product was purified by chromatography over silica gel (eluant dichloromethane) to give 3-benzoyloxy-2-[1-(ethoxyimino)propyl]-5-(2,4,6-trimethoxyphenyl)cyclohex-2-en-1-one (0.50 g; 73.9%) as a pale yellow solid, mp 139° C.

reactant | sodium hydroxide | 6.1 ml | [OH-].[Na+]
reactant | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2,4,6-trimethoxyphenyl)cyclohex-2-en-1-one | 1.40 mmole, 0.52 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=C(C=C(C=C1OC)OC)OC)=O | C20H27NO6
reactant | benzoyl chloride | 0.21 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3-benzoyloxy-2-[1-(ethoxyimino)propyl]-5-(2,4,6-trimethoxyphenyl)cyclohex-2-en-1-one | 0.50 g, 73.9% | C(C1=CC=CC=C1)(=O)OC1=C(C(CC(C1)C1=C(C=C(C=C1OC)OC)OC)=O)C(CC)=NOCC | C27H31NO7
